US04866151
[1-(5,5-Dimethyl-1,3-dioxan-2-yl]-2-propyl acrylate (X)
2-Propenyl-5,5-dimethyl-1,3-dioxane (PDD) was reacted with acrylic acid under the same conditions as the reaction with EDD (see Monomer VIII).

reactant | 2-Propenyl-5,5-dimethyl-1,3-dioxane | C(=CC)C1OCC(CO1)(C)C | C9H16O2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 1-(5,5-Dimethyl-1,3-dioxan-2-yl]-2-propyl acrylate | C(C=C)(=O)OC(CC1OCC(CO1)(C)C)C | C12H20O4
